US05104960
Synthesis of 2-(p-methoxyphenyl)benzoxazole
A mixture of 1.15 g (5 mmoles) of 2-(p-chlorophenyl)benzoxazole, 2.5 g of sodium methoxide and 10 ml of dimethyl sulfoxide is heated at 80° C.-90° C. under nitrogen atmosphere for one hour. The mixture is cooled and diluted with 100 ml of water. The title compound (1 g, 87 percent yield) precipitates and is recovered. It has a melting point of 99.5° C.-101.5° C.

reactant | 2-(p-chlorophenyl)benzoxazole | 5 mmoles, 1.15 g | ClC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C13H8ClNO
reactant | sodium methoxide | 2.5 g | C[O-].[Na+]
reactant | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
product | 2-(p-methoxyphenyl)benzoxazole | 1 g, 87 percent yield | COC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C14H11NO2
